US06017675
21.3. 3,4-Bis(methylthio)benzyl cyanide
42.5 g (0.194 mol) of 1,2-bis(methylthio)-4-chloromethyl-benzene and 25.3 g (0.388 mol) of potassium cyanide are stirred at ambient temperature in 200 ml of DMSO. When the starting material can no longer be detected by GC analysis, the brown solution is poured into ice/water and extracted with acetic acid acetate and the organic phase is dried over magnesium sulfate. After evaporation 34.8 g (85.7%) of 3,4-bis(methylthio)-benzyl cyanide are obtained as brown substance. The 1H-NMR-spektra data (CDCl3) are in accordance with the proposed structure of the compound: 7.24-7.06 ppm (s and d, 3 aromatic H), 3.70 ppm (s, 2H), 2.47 ppm (s, CH3S) and 2.45 ppm (2 s, CH3S).

reactant | 1,2-bis(methylthio)-4-chloromethyl-benzene | 0.194 mol, 42.5 g | CSC1=C(C=C(C=C1)CCl)SC | C9H11ClS2
reactant | potassium cyanide | 0.388 mol, 25.3 g | [C-]#N.[K+]
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 3,4-Bis(methylthio)benzyl cyanide | CSC=1C=C(CC#N)C=CC1SC | C10H11NS2
